* NMOS Id–Vgs sweep (Sky130)
.options scale=1.0
.options temp=-196.15
.lib "/home/oliviag/skywater130nm/volare/sky130/versions/a918dc7c8e474a99b68c85eb3546b4ed91fe9e7b/sky130A/libs.tech/ngspice/sky130.lib.spice" tt_77k

VGS GATE 0 0

VDS DRAIN 0 1.85

* MOSFET
XM1 DRAIN GATE 0 0 sky130_fd_pr__nfet_01v8_lvt w=1.6u l=0.15u nf=1 ad=0.384p as=0.384p pd=2.08u ps=2.08u

* DC sweep
*.dc VDS 0 1.85 0.01

.control
  destroy all
set filetype=ascii
showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta
  compose vgs_vals values 0.37 0.74 1.1 1.5 1.9 
  
    
  foreach idx 0 1 2 3 4
    let current_vgs = vgs_vals[$idx]
    set vgs_scalar = $&current_vgs
    alter VGS = $vgs_scalar
    save @m.xm1.msky130_fd_pr__nfet_01v8_lvt[id] v(DRAIN)

    dc VDS 0 1.8 0.01

    let vds_axis = v(DRAIN)
    let id_axis = @m.xm1.msky130_fd_pr__nfet_01v8_lvt[id]
    let vgs_axis = current_vgs
    
    
    wrdata /home/oliviag/ngspice-skywater-sims/vdsSweep_out/vds_sweep_step{$idx}.txt vgs_axis id_axis vds_axis


    
  end 
.endc 

.end
